US04625038
A mixture of 5-hydroxymethyl-2-pyrrolidone (0.3 g) and 2,2-dimethoxypropane (2 ml) in dichloromethane was refluxed in the presence of a crystal (ca. 10 mg.) of p-toluenesulfonic acid for 20 hours. Aqueous extractive work up followed by solvent evaporation produced 0.18 g of (R)-tetrahydro-3,3-dimethyl-3H,5H-pyrrolo[1,2-c]oxazol-5-one as an oil (TLC showed a single spot at Rf =0.6 (ethyl acetate)).

reactant | 5-hydroxymethyl-2-pyrrolidone | 0.3 g | OCC1CCC(N1)=O | C5H9NO2
reactant | 2,2-dimethoxypropane | 2 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | ca. 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-tetrahydro-3,3-dimethyl-3H,5H-pyrrolo[1,2-c]oxazol-5-one | 0.18 g | CC1(OC[C@@H]2N1C(CC2)=O)C | C8H13NO2
